US07192967B1
4-phenyl-piperidin-2,6-dione
29.0 g (139 mmol) 3-phenylglutaric acid and 8.4 g (139 mmol) urea are stirred at 150° C. for 1.5 hours. After cooling, the reaction mixture is recrystallized from methanol: Yield 20.9 g (79%).

reactant | 3-phenylglutaric acid | 139 mmol, 29.0 g | C1(=CC=CC=C1)C(CC(=O)O)CC(=O)O | C11H12O4
reactant | urea | 139 mmol, 8.4 g | NC(=O)N | CH4N2O
product | 4-phenyl-piperidin-2,6-dione | C1(=CC=CC=C1)C1CC(NC(C1)=O)=O | C11H11NO2
